US07049438B2
4-(2-bromo-5-methoxyanilino)-5-piperidin-4-ylmethoxyquinazoline
A mixture of 4-(2-bromo-5-methoxyanilino)-5-[N-(tert-butoxycarbonyl)piperidin-4-ylmethoxy]quinazoline (0.108 g), trifluoroacetic acid (1 ml) and methylene chloride (1 ml) was stirred at ambient temperature for 1.5 hours. The mixture was evaporated and the residue was triturated under diethyl ether. The resultant solid was isolated and dried under vacuum. The solid was dissolved in methylene chloride and few drops of a saturated methanolic ammonia solution was added. The solution was poured onto a chromatography column filled with silica and eluted with a 97:3 mixture of methylene chloride and a saturated methanolic ammonia solution. There was thus obtained the title compound (0.082 g); NMR Spectrum: (CDCl3) 1.2–1.4 (m, 2H), 1.9 (d, 2H), 2.3 (m, 1H), 2.65 (t, 2H), 3.12 (d, 2H), 3.84 (s, 3H), 4.2 (d, 2H), 6.61 (m, 1H), 6.93 (d, 1H), 7.5 (d, 2H), 7.68 (m, 1H), 8.22 (d, 1H), 8.68 (s, 1H); Mass Spectrum: M+H+ 443 and 445.

reactant | 4-(2-bromo-5-methoxyanilino)-5-[N-(tert-butoxycarbonyl)piperidin-4-ylmethoxy]quinazoline | 0.108 g | BrC1=C(NC2=NC=NC3=CC=CC(=C23)OCC2CCN(CC2)C(=O)OC(C)(C)C)C=C(C=C1)OC | C26H31BrN4O4
reactant | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
product | 4-(2-bromo-5-methoxyanilino)-5-piperidin-4-ylmethoxyquinazoline | 0.082 g | BrC1=C(NC2=NC=NC3=CC=CC(=C23)OCC2CCNCC2)C=C(C=C1)OC | C21H23BrN4O2
